US06936607B2
N4-[3-(BENZYLOXY)PHENYL]-N6,N6-DIMETHYL-2-[4-(2-PYRIMIDINYL)-1-PIPERAZINYL]-4,6-PYRIMIDINEDIAMINE:
A mixture of N4-[3-(benzyloxy)phenyl]-N6,N6-dimethyl-2-(methylsulfinyl)-4,6-pyrimidinediamine (30 mg, 0.078 mmol) and 2-(1-piperazinyl)pyrimidine dihydrochloride (74 mg, 0.312 mmol) in chlorobenzene (2 mL) was heated at reflux for 15 hours. The crude product was purified by preparative thin-layer chromatography [eluent: hexane/EtOAc (7:3)], giving the desired product (16 mg, 42%).

reactant | N4-[3-(benzyloxy)phenyl]-N6,N6-dimethyl-2-(methylsulfinyl)-4,6-pyrimidinediamine | 0.078 mmol, 30 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC1=NC(=NC(=C1)N(C)C)S(=O)C | C20H22N4O2S
reactant | 2-(1-piperazinyl)pyrimidine dihydrochloride | 0.312 mmol, 74 mg | Cl.Cl.N1(CCNCC1)C1=NC=CC=N1
solvent | chlorobenzene | 2 mL | ClC1=CC=CC=C1 | C6H5Cl
product | N4-[3-(BENZYLOXY)PHENYL]-N6,N6-DIMETHYL-2-[4-(2-PYRIMIDINYL)-1-PIPERAZINYL]-4,6-PYRIMIDINEDIAMINE | 16 mg, 42% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC1=NC(=NC(=C1)N(C)C)N1CCN(CC1)C1=NC=CC=N1 | C27H30N8O
